US07414061B2
3-[4-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid methyl ester
As described for Example 3, 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole (112.6 mg, 0.5 mmol) was converted, using 3-methoxycarbonylphenylboronic acid instead of 4-fluorophenylboronic acid, to the title compound (65 mg, 40%) which was obtained as a white solid. MS (ESI): m/e=360.0 [M+H]+.

reactant | 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole | 0.5 mmol, 112.6 mg | N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1 | C13H11N3O
reactant | 3-methoxycarbonylphenylboronic acid | COC(=O)C=1C=C(C=CC1)B(O)O | C8H9BO4
product | 3-[4-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-benzoic acid methyl ester | 65 mg, 40% | COC(C1=CC(=CC=C1)N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1)=O | C21H17N3O3
